US04346161
G. Sodium m-mesyloxybenzenesulfinate
To a solution of sodium sulfite (63 g; 0.5 mole) in water (400 ml) was added m-mesyloxybenzenesulfonyl chloride (67.7 g; 0.25 mole). The mixture was stirred vigorously, adding 50 percent sodium hydroxide solution as needed to maintain pH at 7 to 7.25, holding the temperature at 20° to 25° C. by means of a cold water bath. After 2 hours, a clear solution with a small amount of brown sludge was obtained. The mixture was filtered through Celite and the filtrate was poured into an evaporating dish and slowly allowed to evaporate. The first material to separate (32.5 g) was inorganic (by I. R. Spectrum). Further evaporation afforded three crops of crystalline material which was used without further purification.

reactant | sodium sulfite | 0.5 mole, 63 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | m-mesyloxybenzenesulfonyl chloride | 0.25 mole, 67.7 g | S(=O)(=O)(C)OC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO5S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
product | Sodium m-mesyloxybenzenesulfinate | S(=O)(=O)(C)OC=1C=C(C=CC1)S(=O)[O-].[Na+] | InChI=1S/C7H8O5S2.Na/c1-14(10,11)12-6-3-2-4-7(5-6)13(8)9;/h2-5H,1H3,(H,8,9);/q;+1/p-1
